US07354920B2
a) 1-(4-Benzyl-morpholin-2-yl)-2-(2,4-difluoro-phenyl)-1-phenyl-ethanol
The procedure for the synthesis of example 18a, 1-(4-Benzyl-morpholin-2-yl)-2-(2-chloro-6-fluoro-phenyl)-1-phenyl-ethanol, using 2,4-difluorobenzyl magnesium bromide as starting material (available from Rieke Metals) was followed making non-critical variations, to yield the title compound. This material was used in step b) without further purification. LCMS (6 minutes method) [M+H]+=410 @ Rt 3.19 min. major peak.

reactant | 1-(4-Benzyl-morpholin-2-yl)-2-(2-chloro-6-fluoro-phenyl)-1-phenyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1F)Cl)(O)C1=CC=CC=C1 | C25H25ClFNO2
reactant | 2,4-difluorobenzyl magnesium bromide | FC1=C(C[Mg]Br)C=CC(=C1)F
product | 1-(4-Benzyl-morpholin-2-yl)-2-(2,4-difluoro-phenyl)-1-phenyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=C(C=C1)F)F)(O)C1=CC=CC=C1 | C25H25F2NO2
